### PR TITLE
Chore: Change Automata Tactic from Equality to Congruence on w Bits

### PR DESCRIPTION
**Pull request by AtticusKuhn**
In a previous version of the Automata tactic, I had relied on statements for re-writing that were not true, for example

```lean
@[simp] theorem ofBitVec_add : ofBitVec (x + y) = (ofBitVec x) + (ofBitVec y) := sorry
```

But in this patch, I use a Simproc to only require a weaker statement:

```lean
@[simp] theorem ofBitVec_add : EqualUpTo w (ofBitVec (x + y))  ((ofBitVec x) + (ofBitVec y)) := sorry
```

So the code has become uglier and more complicated, but at least all the sorries are provable now.

The main new point of complication is that I introduced a new Simproc (because I no longer rely on the congruence properties of equality), and this makes the code more complicated.

The reason why is that for equality, congruence comes for free, i.e. if a=b, then f(a) = f(b). For other equivalence relations, congruence is not automatic, so we have to prove and apply congruence manually.

There are still three sorries in the tactic, namely

```lean

@[simp] theorem ofBitVec_sub : ofBitVec (x - y) ≈ʷ (ofBitVec x) - (ofBitVec y)  := by
  sorry

@[simp] theorem ofBitVec_add : ofBitVec (x + y) ≈ʷ (ofBitVec x) + (ofBitVec y)  := by
  sorry

@[simp] theorem ofBitVec_neg : ofBitVec (- x) ≈ʷ  - (ofBitVec x) := by
  sorry
```

But as I find these statements difficult to prove, I will prove them in a later PR.

cc: @Equilibris

### CODE REVIEW

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 1]
```diff
@@ -363,10 +370,86 @@ Crucially, our decision procedure works by considering which equalities hold for
...
 --   have ⟨h₁, h₂⟩ : True ∧ True := sorry
 --   sorry
-@[simp] theorem ofBitVec_sub : ofBitVec (x - y) = (ofBitVec x) - (ofBitVec y) := sorry
-@[simp] theorem ofBitVec_add : ofBitVec (x + y) = (ofBitVec x) + (ofBitVec y) := sorry
-@[simp] theorem ofBitVec_neg : ofBitVec (-x) = -(ofBitVec x) := sorry
-@[simp] theorem ofBitVec_not : ofBitVec (~~~ x) = ~~~ (ofBitVec x) := sorry
+
+variable {w : Nat} { x y : BitVec w} {a b a' b' : BitStream}
+
+local notation a " ≈  " b  => EqualUpTo w a b
```
Comment (bollu) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: I suggest that the notation carries a $w$ inside it, so that it's clear from the syntax what the $w$ is.

Comment (tobiasgrosser) [reply SSA/Experimental/Bits/Fast/BitStream.lean]: Should this not be clear from the expressions on both sides?

Comment (bollu) [reply SSA/Experimental/Bits/Fast/BitStream.lean]: Sadly not, because the $a, b$ are bitstreams which have no width.

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 2]
```diff
@@ -363,10 +369,78 @@ Crucially, our decision procedure works by considering which equalities hold for
...
+theorem equal_up_to_refl : a ≈ʷ a := by
+  intros  j _
+  rfl
+
+theorem equal_up_to_symm (e : a ≈ʷ b) : b ≈ʷ a := by
+  intros j h
+  symm
+  exact e j h
+
+theorem equal_up_to_trans (e1 : a ≈ʷ b) (e2 : b ≈ʷ c) : a ≈ʷ c := by
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/BitStream.lean:395]: Often with trans theorems its nice to implement `Trans` as it means `calc` can be used it proofs making things quite clean. Likewise `Equivalence`

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 3]
```diff
@@ -363,10 +369,78 @@ Crucially, our decision procedure works by considering which equalities hold for
...
+    <;> simp only [negAux, Prod.mk.injEq, (e1 _ h)]
+    rename_i _ ih
+    simp only [ih (by omega), Bool.bne_right_inj, and_self]
+  simp only [Neg.neg, BitStream.neg, neg_congr_lemma]
+
+theorem not_congr (e1 : a ≈ʷ b) : (~~~a) ≈ʷ ~~~b := by
+  intros g h
+  simp only [not_eq, e1 g h]
+
+theorem equal_trans  (e1 :  a ≈ʷ b) (e2 : c ≈ʷ d)  : (a ≈ʷ c) = (b ≈ʷ d) := by
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/BitStream.lean:438]: stylistically i like to for each goal add a bullet such that whenever a new goal is indented it gets its own, also sometimes you next the functions locally and sometimes you do them in subsequent applies, is it maybe worth standardising this?

```suggestion
theorem equal_trans  (e1 :  a ≈ʷ b) (e2 : c ≈ʷ d)  : (a ≈ʷ c) = (b ≈ʷ d) := by
  apply propext
  constructor
  <;> intros h
  · apply equal_up_to_trans _ e2
    apply equal_up_to_trans _ h
    apply equal_up_to_symm
    assumption
  · apply equal_up_to_trans _ 
    apply (equal_up_to_symm e2)
    apply equal_up_to_trans _ h
    assumption
```

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 4]
```diff
@@ -116,36 +117,75 @@ simproc reduce_bitvec (BitStream.ofBitVec _) := fun e => do
...
--/
-
-
 /--
-Helper function to construct an equality expression
+Given an Expr e, return a pair e', p where e' is an expression and p is a proof that e and e' are equal on the fist w bits
 -/
-def eqE (left : Q(Nat)) (right : Q(Nat)) : Q(Prop) :=
-  q($left = $right)
+def first_rep (w : Expr) (e : Q( BitStream)) : SimpM (Q(BitStream) ×  Expr)  :=
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/Tactic.lean]: is it possible to use match_expr?

Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/Tactic.lean]: I cant read this function at all

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 5]
```diff
@@ -116,36 +117,75 @@ simproc reduce_bitvec (BitStream.ofBitVec _) := fun e => do
...
+      let ⟨ anext, aproof ⟩ ← first_rep w a
+      let ⟨ bnext, bproof ⟩ ← first_rep w b
+      return ⟨
+        q($anext - $bnext),
+        .app (.app (.app (.app (.app (.app (.app (.const ``BitStream.sub_congr []) w) a) anext) b) bnext) aproof) bproof
+      ⟩
+    | .app (.app (.const ``BitStream.ofBitVec []) w) (.app (.app (.app (.app (.app (.app (.const ``HSub.hSub levels) _) _) _) _) a ) b) => do
+      let myInst : Q(HSub BitStream BitStream BitStream) := q(instHSub)
+      return ⟨
+        (.app (.app (.app (.app (.app (.app (.const ``HSub.hSub levels) (.const ``BitStream [])) (.const ``BitStream [])) (.const ``BitStream []) ) myInst ) (.app (.app (.const ``BitStream.ofBitVec []) w)  a)   ) (.app (.app (.const ``BitStream.ofBitVec []) w)  b)),
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/Tactic.lean]: please qq?

**Review by Equilibris — APPROVED** [review]
after QQ and match_expr lgtm

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 6]
```diff
@@ -363,10 +369,78 @@ Crucially, our decision procedure works by considering which equalities hold for
...
 --   have ⟨h₁, h₂⟩ : True ∧ True := sorry
 --   sorry
-@[simp] theorem ofBitVec_sub : ofBitVec (x - y) = (ofBitVec x) - (ofBitVec y) := sorry
-@[simp] theorem ofBitVec_add : ofBitVec (x + y) = (ofBitVec x) + (ofBitVec y) := sorry
-@[simp] theorem ofBitVec_neg : ofBitVec (-x) = -(ofBitVec x) := sorry
-@[simp] theorem ofBitVec_not : ofBitVec (~~~ x) = ~~~ (ofBitVec x) := sorry
+
+variable {w : Nat} {x y : BitVec w} {a b a' b' : BitStream}
+
+local notation a " ≈ʷ  " b  => EqualUpTo w a b
```
Comment (Equilibris) [inline SSA/Experimental/Bits/Fast/BitStream.lean]: also i would prefer `infix` here

```suggestion
local infix:20 " ≈ʷ  "  => EqualUpTo w
```

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 7]
```diff
@@ -1,7 +1,6 @@
 import Mathlib.Tactic.NormNum
 
 import Mathlib.Logic.Function.Iterate
-
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean:4]: This seems unrelated.

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 8]
```diff
@@ -264,6 +263,13 @@ variable (x y : BitVec (w+1))
   simp only [ofBitVec, BitVec.getLsb_xor, xor_eq]
   split <;> simp_all
 
+@[simp] theorem ofBitVec_not : ofBitVec (~~~ x) = ~~~ (ofBitVec x) := by
+  funext i
+  simp only [ofBitVec, BitVec.getLsb_not, BitVec.msb_not, lt_add_iff_pos_left, add_pos_iff,
+    zero_lt_one, or_true, decide_True, Bool.true_and, not_eq]
+  split <;> simp_all
+
+
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean]:
```suggestion

```

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 9]
```diff
@@ -1,5 +1,4 @@
 import Lean.Meta.Tactic.Simp.BuiltinSimprocs
-import SSA.Experimental.Bits.Fast.FiniteStateMachine
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean:2]: Is this change related?

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 10]
```diff
@@ -9,6 +8,7 @@ open Lean Elab Tactic
 open Lean Meta
 open scoped Qq
 
+
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean:11]: Unrelated change?

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 11]
```diff
@@ -280,7 +333,6 @@ def test27 (x y : BitVec 5) : 2 + x  = 1  + x + 1 := by
 def test28 {w : Nat} (x y : BitVec (w + 1)) : x &&& x &&& x &&& x &&& x &&& x = x := by
   bv_automata
 
-
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean:283]: Unrelated.
